US08871269B2
Formulation BI (Leuprolide)—Conventional Encapsulation Method
PLGA polymer (MW 24,000, 160 mg) was dissolved in CH2Cl2 (1000 μL). Leuprolide acetate (40 mg) was dissolved in BnOH (1000 μL) and added to the polymer solution yielding a homogeneous organic phase. The resulting organic phase was combined with a 1% PVA aqueous phase to provide an emulsion. The emulsion was collected directly into a 0.3% PVA solvent extraction solution (150 mL) and stirred for four hours to extract EtOAc. Hardened microparticies were collected by filtration, washed with water, air dried and stored at 4° C. This provided formulation BI (140 mg, 70.0% yield) with a median particle size 50.1 μm. The core load (1.99%), encapsulation efficiency (9.95%) and in vitro burst (1.63%) were determined by RP-HPLC assay.

reactant | Leuprolide acetate | 40 mg | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6.CC(=O)O
solvent | CH2Cl2 | 1000 μL | C(Cl)Cl | CH2Cl2
solvent | BnOH | 1000 μL | C(C1=CC=CC=C1)O | C7H8O
product | Leuprolide | 70.0% yield | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6 | C59H84N16O12
